US04022833
In a manner similar to that of Example 1, condensation of 1-decene oxide (100 g.) and ethylenediamine (19.2 g.) and recrystallization of a portion (20 g.) of the resulting solid (45 g.) from ethanol gave N,N'-ethylenebis[2-hydroxydecylamine] (I: R= CH3 (CH2)7, R' = H, X= (CH2)2, Z= H) (13.6 g., m.p. 140.0°-145.8° C.).

reactant | 1-decene oxide | 100 g | C1C(CCCCCCCC)O1 | C10H20O
reactant | ethylenediamine | 19.2 g | C(CN)N | C2H8N2
solvent | ethanol | C(C)O | C2H6O
product | N,N'-ethylenebis[2-hydroxydecylamine] | C(CNCC(CCCCCCCC)O)NCC(CCCCCCCC)O | C22H48N2O2
